### PR TITLE
feat: strengthen `numeric`, etc. tactics

### PR DESCRIPTION
**Pull request by vihdzp**
by allowing them to operate on `Subposition` and `WSubposition` hypotheses.

### CODE REVIEW

File: CombinatorialGames/Game/Classes.lean [hunk 1]
```diff
@@ -77,9 +77,22 @@ theorem moves_eq_empty_iff [hx : Dicotic x] : ∀ p q, x.moves p = ∅ ↔ x.mov
...
+protected theorem wsubposition [Dicotic x] (h : WSubposition y x) : Dicotic y := by
+  obtain rfl | hy := wsubposition_iff_eq_or_subposition.1 h
+  · assumption
+  · exact .subposition hy
+
 /-- `dicotic` eagerly adds all possible `Dicotic` hypotheses. -/
 elab "dicotic" : tactic =>
-  addInstances <| .mk [`IGame.Dicotic.of_mem_moves]
+  addInstances <| .mk
+    [`IGame.Dicotic.of_mem_moves, `IGame.Dicotic.subposition, `IGame.Dicotic.wsubposition]
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]: Can we use double backticks here so it resolves the name at compile-time?
```suggestion
    [``Dicotic.of_mem_moves, ``Dicotic.subposition, ``Dicotic.wsubposition]
```

File: CombinatorialGames/Game/Classes.lean [hunk 2]
```diff
@@ -133,9 +146,22 @@ protected theorem of_mem_moves {p} {x y : IGame} [h : Impartial x] :
...
+protected theorem wsubposition {x y} [Impartial x] (h : WSubposition y x) : Impartial y := by
+  obtain rfl | hy := wsubposition_iff_eq_or_subposition.1 h
+  · assumption
+  · exact .subposition hy
+
 /-- `impartial` eagerly adds all possible `Impartial` hypotheses. -/
 elab "impartial" : tactic =>
-  addInstances <| .mk [`IGame.Impartial.of_mem_moves]
+  addInstances <| .mk
+    [`IGame.Impartial.of_mem_moves, `IGame.Impartial.subposition, `IGame.Impartial.wsubposition]
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]: Same here.
```suggestion
    [``Impartial.of_mem_moves, ``Impartial.subposition, ``Impartial.wsubposition]
```

File: CombinatorialGames/Game/Classes.lean [hunk 3]
```diff
@@ -321,7 +343,12 @@ protected theorem subposition [Numeric x] (h : Subposition y x) : Numeric y := b
 protected theorem wsubposition [Numeric x] (h : WSubposition y x) : Numeric y := by
   obtain rfl | hy := wsubposition_iff_eq_or_subposition.1 h
   · assumption
-  · exact Numeric.subposition hy
+  · exact .subposition hy
+
+/-- `numeric` eagerly adds all possible `Numeric` hypotheses. -/
+elab "numeric" : tactic =>
+  addInstances <| .mk
+    [`IGame.Numeric.of_mem_moves, `IGame.Numeric.subposition, `IGame.Numeric.wsubposition]
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]: Same here
```suggestion
    [``Numeric.of_mem_moves, ``Numeric.subposition, ``Numeric.wsubposition]
```

File: CombinatorialGames/Game/Classes.lean [hunk 4]
```diff
@@ -476,17 +503,23 @@ instance (p : Player) (x : IGame) [Short x] : Finite (x.moves p) :=
...
 
+protected theorem wsubposition [Numeric x] (h : WSubposition y x) : Numeric y := by
+  obtain rfl | hy := wsubposition_iff_eq_or_subposition.1 h
+  · assumption
+  · exact .subposition hy
+
+/-- `short` eagerly adds all possible `Short` hypotheses. -/
+elab "short" : tactic =>
+  addInstances <| .mk
+    [`IGame.Short.of_mem_moves, `IGame.Short.subposition, `IGame.Short.wsubposition]
```
Comment (plp127) [inline CombinatorialGames/Game/Classes.lean]: and here
```suggestion
    [``Short.of_mem_moves, ``Short.subposition, ``Short.wsubposition]
```

File: CombinatorialGames/Game/Classes.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Classes.lean]: That's neat, didn't know about this.

**Review by plp127 — APPROVED** [review]
